*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXE160ARA330ME61G
*//   Date        : 2020/12/24
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXE160ARA330ME61G_20deg-C 1 2

C1 4 2 2.13e-05
C2 5 2 5.15e-06
C3 6 2 5.06e-06
R1 3 4 1.35e-02
R2 4 5 3.90e-01
R3 5 6 2.02e+00
L1 1 3 2.10e-09

.ENDS
